US09371298B2
In a 1 Liter autoclave 3-(4-Bromo-2,6-difluoro-benzyloxy)-5-[3-(4-pyrrolidin-1-yl-butyl)-ureido]-isothiazole-4-carboxylic acid methyl ester (1.00 equiv, 27.0 g) was slurried in methanol (270 mL, 10 volumes) and tetrahydrofuran (270 mL, 10 volumes). The mixture was cooled to 0° C. and stirred at 600 rpm. Anhydrous ammonia gas was charged carefully, keeping the temperature below 10° C. Once a steady pressure of around 10 psi was maintained, the mixture was heated to 40° C. The pressure increased to about 45 psi. The pressure was adjusted to 50 psi and stirred at 600 rpm and 40° C. for 90 hours. The stir rate was then adjusted to 1000 rpm and stirred for an additional 24 hours. The ammonia was removed by vacuum, and the mixture was cooled to 20° C. and transferred out of the reactor. The mixture was filtered to remove insoluble solids (non-product related). The filtrate was diluted with 2-propanol (270 mL, 10 volumes), and the tetrahydrofuran and methanol were distilled atmospherically. Additional 2-propanol (135 mL, 5 volumes) were added, then the mixture was distilled to approximately 250 mL total volume. The slurry was cooled to 20° C. and stirred 18 hours. The solids were filtered and then dried under vacuum to give 19.9 grams of 3-(4-Bromo-2,6-difluoro-benzyloxy)-5-[3-(4-pyrrolidin-1-yl-butyl)-ureido]-isothiazole-4-carboxylic acid amide (76% yield). 1H NMR (DMSO-d6): δ 10.98 (s, 1H); 8.18 (m, 1H); 7.55 (m, 3H); 6.80 (s, 1H); 5.41 (s, 2H); 3.08 (m, 2H); 2.47 (m, 6H); 1.62 (m, 4H); 1.42 (m, 4H). MS (API-ES pos) 532/534 (M+H)+, base.

reactant | 3-(4-Bromo-2,6-difluoro-benzyloxy)-5-[3-(4-pyrrolidin-1-yl-butyl)-ureido]-isothiazole-4-carboxylic acid methyl ester | 27.0 g, 1.00 equiv | COC(=O)C=1C(=NSC1NC(=O)NCCCCN1CCCC1)OCC1=C(C=C(C=C1F)Br)F | C21H25BrF2N4O4S
reactant | ammonia | N | H3N
solvent | methanol | 270 mL | CO | CH4O
solvent | tetrahydrofuran | 270 mL | O1CCCC1 | C4H8O
product | 3-(4-Bromo-2,6-difluoro-benzyloxy)-5-[3-(4-pyrrolidin-1-yl-butyl)-ureido]-isothiazole-4-carboxylic acid amide | 19.9 grams, 76% yield | BrC1=CC(=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCN2CCCC2)C(=C1)F)F | C20H24BrF2N5O3S
